US06924278B2
A mixture of (2R)-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-propargylpiperazine (286 mg), (3S)-3-isopropylmorpholine hydrochloride (118 mg) and N,N-diisopropylamine (92 mg) in dioxane (3 ml) was stirred at room temperature. Paraformaldehyde (22 mg) and copper(I) chloride (10 mg) were added and the whole was stirred for 30 minutes and then heated at 80° C. for 4 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel using a mixture of hexane and ethyl acetate (1:1) as eluent. The obtained product was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-((3S)-3-isopropylmorpholino)-2-butynyl]-2-(3,4-dimethylbenzyl)piperazine dihydrochloride (190 mg).

reactant | (2R)-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-propargylpiperazine | 286 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C25H24F6N2O
reactant | (3S)-3-isopropylmorpholine hydrochloride | 118 mg | Cl.C(C)(C)[C@@H]1NCCOC1
reactant | N,N-diisopropylamine | 92 mg | C(C)(C)NC(C)C | C6H15N
reactant | Paraformaldehyde | 22 mg | C=O | CH2O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) chloride | 10 mg | [Cu]Cl
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-((3S)-3-isopropylmorpholino)-2-butynyl]-2-(3,4-dimethylbenzyl)piperazine dihydrochloride | 190 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2[C@H](COCC2)C(C)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C33H39F6N3O2.2ClH/c1-22(2)30-21-44-14-13-41(30)10-6-5-9-40-11-12-42(29(20-40)16-25-8-7-23(3)24(4)15-25)31(43)26-17-27(32(34,35)36)19-28(18-26)33(37,38)39;;/h7-8,15,17-19,22,29-30H,9-14,16,20-21H2,1-4H3;2*1H/t29-,30-;;/m1../s1
